US04278672
In 30 ml of acetonitrile, 0.025 mole of 1,3-diphenyl-1,3-diazetidine-2,4-dione was added, then 4.5 ml (0.05 mole) of dimethylamine aqueous solution (50%) was added dropwise under stirring. The reaction was continued at 50° C. for 0.5 hours and the solvent was removed by distillation under a reduced pressure to obtain a residue. The residue was recrystallized from ethanol to obtain 5.4 g (yield 76%) of 1,1-dimethyl-3,5-diphenylbiuret having a melting point of 105°-107° C.

reactant | 1,3-diphenyl-1,3-diazetidine-2,4-dione | 0.025 mole | C1(=CC=CC=C1)N1C(N(C1=O)C1=CC=CC=C1)=O | C14H10N2O2
reactant | dimethylamine | 0.05 mole, 4.5 ml | CNC | C2H7N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1,1-dimethyl-3,5-diphenylbiuret | 5.4 g, yield 76% | CN(C(=O)N(C(=O)NC1=CC=CC=C1)C1=CC=CC=C1)C | C16H17N3O2
